US07622583B2
5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid (6-amino-pyridin-2-yl)-ethyl-amide
The title compound was prepared by procedure analogous to that described in example 325, step 2 using 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl chloride and (6-ethylamino-pyridin-2-yl)-carbamic acid tert-butyl ester.

reactant | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl chloride | ClC=1C=C(C(=NC1)C(=O)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H6Cl3F3N2O3S
reactant | (6-ethylamino-pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)NCC)=O | C12H19N3O2
product | 5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid (6-amino-pyridin-2-yl)-ethyl-amide | NC1=CC=CC(=N1)N(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)CC | C20H16Cl2F3N5O3S
